US08232390B2
Step 4: methyl 4-(acetylamino)-13-cyclohexyl-6-oxo-6,7-dihydro-5H-indolo[1,2-d][1,4]-benzodiazepine-10-carboxylate
NaH (60% dispersion in mineral oil) (1.7 eq) was added to a stirred solution of methyl 2-{3-(acetylamino)-2-[(chloroacetyl)amino]phenyl}-3-cyclohexyl-1H-indole-6-carboxylate in anhydrous DMF (0.02 M) at RT under N2. The reaction was stirred vigorously for 1 h before quenching with 1N HCl (aq) and extracting into EtOAc. The aqueous phase was extracted a second time with EtOAc and the combined organics washed well with 1N HCl (aq), water and brine before being dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to afford the title compound as a brown glass (94%). The material was taken on in the subsequent step without further purification. MS (ES+) m/z 446 (M+H)+.

reactant | NaH | 1.7 eq | [H-].[Na+]
reactant | methyl 2-{3-(acetylamino)-2-[(chloroacetyl)amino]phenyl}-3-cyclohexyl-1H-indole-6-carboxylate | C(C)(=O)NC=1C(=C(C=CC1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)NC(CCl)=O | C26H28ClN3O4
solvent | DMF | 0.02 M | CN(C)C=O | C3H7NO
product | methyl 4-(acetylamino)-13-cyclohexyl-6-oxo-6,7-dihydro-5H-indolo[1,2-d][1,4]-benzodiazepine-10-carboxylate | 94% | C(C)(=O)NC1=CC=CC=2C=3N(CC(NC21)=O)C=2C=C(C=CC2C3C3CCCCC3)C(=O)OC | C26H27N3O4
